2141-04-07 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient transfused 2 units pRBCs at MN and 3am.
   - K 7.3 at 5am; repeat K pending
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Heparin Agents
   Thrombocytopeni
   Warfarin
   GI bleed;
   Zolpidem
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-4-6**] 09:30 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: no changes
   Flowsheet Data as of  [**2141-4-7**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 34.2
C (93.6
   Tcurrent: 33.8
C (92.9
   HR: 72 (65 - 75) bpm
   BP: 92/63(51) {87/40(48) - 191/158(169)} mmHg
   RR: 19 (12 - 32) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                     33 mL
                                                                    771 mL
   PO:
           TF:
   IVF:
                                                                     33 mL
                                                                     71 mL
   Blood products:
   700 mL
   Total out:
                                                                    400 mL
                                                                    680 mL
   Urine:
                                                                    100 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -367 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Extremities: 1+ DP bilaterally; extremities warm; 2+ pitting edema
   bilaterally. Signs of chronic venous insufficiency present bilaterally.
   Left leg wrapped in ACE; no pneumoboots present.
   Skin:  Multiple ecchymoses on arms bilaterally
   Neurologic: Alert and oriented, maintains closed eyes throughout much
   of the conversation. Intention tremor present (baseline)
   CV: Irregularly irregular rhythm, normal rate, no murmur/rub/gallop
   Pulm: rhonchorous breath sounds present bilaterally, otherwise clear
   Ab: Generally soft but mildly firm in RLQ>LLQ, BS present, non-tender
   Labs / Radiology
   110 K/uL
   10.3 g/dL
   106 mg/dL
   2.4 mg/dL
   24 mEq/L
   7.3 mEq/L
   56 mg/dL
   101 mEq/L
   139 mEq/L
   29.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2141-4-6**]  08:20 PM
                             [**2141-4-7**]  04:57 AM
   WBC
   8.2
   5.9
   Hct
   22.8
   29.7
   Plt
   128
   110
   Cr
   2.4
   Glucose
   106
   Other labs: PT / PTT / INR:13.6/32.2/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.8 mg/dL
   Cortisol 26.4
   UA hazy pink 1.008, lg blood, neg nitrite, neg leuk pH 6.5; sed 388 R,
   0 W, no bact/yeast, 2 hyaline casts
   Urine lytes: 10pm -= BUN 323, Cr 26, Na 78 (at 3pm serum levels 140 /
   65 / 2.7) = FEUN 51.6%, FeNa 5%
   Blood cx X2 pending; urine legionella negative; urine culture pending
   [**4-7**] CXR - unread
   Assessment and Plan
   Mr. [**Known lastname 14060**] is an 87 yo male with a history of diastolic CHF (EF 65%
   1/10), AFib not on coumadin, mild AS, stage IV CKD, and HTN, who
   presents from acute rehab after falling at his nursing home and was
   found to have a left intertrochanteric fracture.  He was hypotensive to
   the 90s in the ED and was admitted to the MICU for management.
   .
   # HYPOTENSION/ACUTE BLEED/HEMATURIA. Baseline bp per [**3-31**] discharge
   summary is sbp 90s-100. Patient found to have sbp in 80s in ED, now
   improved to 100s with IVF. Ddx = septic shock (given hypothermia, but
   this is pt
s baseline per wife and chart and he has no WBC),
   hypovolemia in setting of dehydration or acute bleed (eg
   retroperitoneal bleed or soft tissue hematoma in setting of hip fx
   though initial CT negative, or GIB though guaiac negative in ED, or GU
   bleed; Hct 29 in clinic to 22.9 here, though after 2+ L IVF and likely
   dilutional in part), vasovagal in setting of severe pain, cardiogenic
   in setting of severe CHF, adrenal insufficiency (cortisol normal). Most
   likely due to combination of dehydration +/- acute bleed in setting of
   poor cardiac function.
   - Infectious work-up: blood cx, urine cx, urinalysis, sputum cx; repeat
   CXR
   - Gentle IVF or pRBC as needed to maintain SBP > 90, careful to monitor
   volume status in setting of severe CHF
   - Hold ASA for now given low Hct
   - Bumped appropriately after 2 units pRBC night of [**4-6**]; retransfuse for
   Hct < 25
   - Found to have hematuria; will follow (no pain suggesting stone;
   possibly [**1-31**] Foley insertion)
   - Guaiac stools
   - Monitor physical exam for signs of hematoma formation at site of
   fracture, and re-scan if develops signs of dramatic bleed to rule out
   retroperitoneal bleed
   - Goal UOP > 50 cc/hr
   .
   # LEFT HIP FRACTURE
   - Ortho following; plan for total hip replacement today (open schedule
   for add-on)
   - Active type and screen; coags in AM, NPO
   - Cardiac consult in early AM to clear for surgery (followed by Dr.
   [**Last Name (STitle) 3014**]
   - Pneumoboots  (no SCH given prior concern for possible HIT) for DVT
   prophylaxis
   - Monitor for signs of complications (soft tissue hematoma,
   retroperitoneal bleed)
   - Morphine for pain, monitoring blood pressure closely
   - Continue BB
   .
   # CHF - endstage. Difficult to titrate meds in setting of CKD. Weight
   baseline about 160, on [**4-6**] is 167 lb, had been stable throughout last
   week in rehab.
   - Daily weights
   - Hold torsemide for now in setting of hypotension
   - Hold spironolactone for now in setting of hypotension
   - Continue BB
   - Hold ASA for now in setting of hypotension and anemia and possibly
   going to OR
   - Continue statin
   - Repeat EKG in AM
   - Goal UOP > 50 cc/hr
   .
   # HYPERKALEMIA: Possibly secondary to hemolysis post-transfusions.
   - Re-check EKG this AM
   - Re-check K prior to OR
   - Restart home torsemide dose this morning
   - Goal K < 5.5 prior to OR (consider kayexelate if needed)
   .
   # RETROPERITONEAL MASS: Adrenal mass seen on CT this admission (8x6.2
   cm). Non-urgent adrenal MRI recommended by radiology for further
   characterization. Not evident on prior MRI [**2-7**], but "Large but poorly
   assessed hypoechoic area (4 cm) in the region of the left upper pole,
   for which differential considerations include an adrenal or renal mass,
   or a renal cyst" seen on abdominal ultrasound [**1-8**]. Cortisol wnl.
   - MRI abdomen, non-urgent
   .
   # CKD - stage IV. Creatinine baseline 2.0, on admission elevated to
   2.7, now trending down to 2.4. Likely prerenal in setting of
   hypotension, though FEUN 51% and FeNa 5%. Currently self-diuresing
   well.
   - Renally dose meds and avoid nephrotoxins
   - Gentle hydration with blood products/fluids
   - Hold diuretics for now
   - Monitor for signs of uremia, hyperkalemia, acidosis, volume overload
   .
   # POSSIBLE PNEUMONIA. Initial CXR concerning for retrocardiac opacity.
   Pt received levofloxacin in ED. No WBC, no respiratory symptoms.
   - Repeat CXR in AM after hydrated
   - Hold levofloxacin in setting of low clinical suspicion for PNA and
   multiple episodes of C. Diff.
   - Sputum cx not yet logged, urine legionella negative
   - Continue ipratropium nebs
   .
   # THROMBOCYTOPENIA. Had pancytopenia at prior admission, normalized
   during treatment. HIT ruled out, but heparin products avoided because
   initial GP4 antibody positive (Serotonin assay negative). DDx
   dilutional (most likely) vs consumptive vs chronic disease
   - Monitor for now, transfuse for Plt < 30
   .
   # RECURRENT C. DIFF INFECTION. Currently on PO Vanco taper. No diarrhea
   currently.
   - Continue PO Vancomycin taper as above.
   - Avoid unnecessary antibiotics if possible
   - ID approval required in AM.
   .
   # Atrial Fibrillation. Holding ASA in setting of low Hct; not on
   Coumadin due to GIB.
   - Hold ASA for now.
   - Metoprolol for rate control, hold for SBP < 100.
   .
   # CHRONIC ANEMIA. Baseline Hct 30; likely secondary to CKD/chronic
   disease.
   - Consider Epo
   .
   # CHRONIC VENOUS STASIS.
   - Wound care for left leg ulcer.
   - Teds
   .
   # INABILITY TO TAKE PO MEDS. Pt somewhat sleep late last night, and PO
   meds held. Will monitor and if no improvement during day will consult
   speech/swallow.
   - Crush meds PRN
   .
   # FEN: Replete electrolytes, NPO now for procedure, senna/colace/tums
   # Prophylaxis: No SCH given possible concern for HIT in past. PPI.
   Pneumoboots.
   # Access: Two 18 guage peripherals
   # Communication: Patient, wife [**Name (NI) **] [**Name (NI) 14060**] [**Telephone/Fax (1) 14482**]
   # Code:  Full code for acute situations and OR but does not wish to be
   chronically vented (discussed with patient and wife)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-4-6**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-04-08 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2141-4-7**] 02:00 PM
 INVASIVE VENTILATION - START [**2141-4-7**] 04:55 PM
 INVASIVE VENTILATION - STOP [**2141-4-7**] 05:18 PM
 OR RECEIVED - At [**2141-4-7**] 06:00 PM
   [**2141-4-7**]:
   - Went to OR (ok'd per cards) for ORIF hip fracture with TFN
   - BP ok o/n SBP 100-130.  Earlier in day given 1 unit pRBC for brief
   SBP 70s on neo (weaned off). A line kept for blood draws.
   - Hyperkalemic (likely hemolyzed) but repeat K 5.7
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Heparin Agents
   Thrombocytopeni
   Warfarin
   GI bleed;
   Zolpidem
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2141-4-8**] 03:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2141-4-7**] 10:00 PM
   Furosemide (Lasix) - [**2141-4-7**] 10:50 PM
   Morphine Sulfate - [**2141-4-8**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-8**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.1
   HR: 92 (68 - 116) bpm
   BP: 68/39(50) {62/37(46) - 82/50(61)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,990 mL
                                                                    122 mL
   PO:
             TF:
   IVF:
                                                                    940 mL
                                                                    122 mL
   Blood products:
                                                                  1,050 mL
   Total out:
                                                                  1,100 mL
                                                                    110 mL
   Urine:
                                                                  1,000 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                     12 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 515 (515 - 515) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.35/44/73.[**Numeric Identifier 218**]/25/-1
   Ve: 6.3 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General: Alert, oriented, NAD
   HEENT: Sclera anicteric, MMM
   Neck: supple, JVP 11 cm
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   ronchi
   CV: Irregularly irregular rhythm, normal rate, distant heart sounds, no
   murmurs, rubs, gallops
   ABD:  soft, non-tender, non-distended, bowel sounds present, no rebound
   tenderness or guarding
   GU: foley
   Ext:
   Neuro:
   Labs / Radiology
   127 K/uL
   8.4 g/dL
   71 mg/dL
   3.2 mg/dL
   25 mEq/L
   5.2 mEq/L
   64 mg/dL
   107 mEq/L
   144 mEq/L
   24.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2141-4-6**]  08:20 PM
                             [**2141-4-7**]  04:57 AM
                             [**2141-4-7**]  12:45 PM
                             [**2141-4-7**]  04:12 PM
                             [**2141-4-7**]  05:30 PM
                             [**2141-4-7**]  11:17 PM
                             [**2141-4-8**]  02:48 AM
   WBC
   8.2
   5.9
   9.5
   7.7
   Hct
   22.8
   29.7
   26.1
   32
   28.0
   25.5
   24.2
   Plt
   128
   110
   131
   127
   Cr
   2.4
   2.9
   3.2
   TCO2
   25
   Glucose
   106
   60
   78
   71
   Other labs: PT / PTT / INR:13.6/32.2/1.2,
   Lactic Acid:1.7 mmol/L,
    Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:5.8 mg/dL
   MICRO:
   -urine legionella: negative
   - urine cx: ngtd
   - blood cx: ngtd
   CT ABDOMEN ([**4-6**]):
   1. Left intertrochanteric hip fracture.
   2. Large left adrenal mass, which is not characterized on non-contrast
   examination. However, the imaging features are not consistent with an
   adrenal
   hematoma. A nonurgent adrenal MR recommended for further
   characterization.
   3. Cholelithiasis.
   4. Atherosclerotic calcification of the abdominal aorta and its
   branches.
   5. No evidence of retroperitoneal hematoma.
   6. Prostatic enlargement.
   Assessment and Plan
   Mr. [**Known lastname 14060**] is an 87 yo male with a history of diastolic CHF (EF 65%
   1/10), AFib not on coumadin, mild AS, stage IV CKD, and HTN, who
   presents from acute rehab after falling at his nursing home and was
   found to have a left intertrochanteric fracture admitted to the MICU
   for hypotension now  day 1 s/p ORIF.
   .
   # HYPOTENSION/ACUTE BLEED/HEMATURIA. Baseline bp per [**3-31**] discharge
   summary is sbp 90s-100. Patient found to have sbp in 80s in ED, now
   improved to 100s with IVF. Ddx = septic shock (given hypothermia, but
   this is pt
s baseline per wife and chart and he has no WBC),
   hypovolemia in setting of dehydration or acute bleed (eg
   retroperitoneal bleed or soft tissue hematoma in setting of hip fx
   though initial CT negative, or GIB though guaiac negative in ED, or GU
   bleed; Hct 29 in clinic to 22.9 here, though after 2+ L IVF and likely
   dilutional in part), vasovagal in setting of severe pain, cardiogenic
   in setting of severe CHF, adrenal insufficiency (cortisol normal). Most
   likely due to combination of dehydration +/- acute bleed in setting of
   poor cardiac function.
   - Infectious work-up: blood cx, urine cx, urinalysis, sputum cx; repeat
   CXR
   - Gentle IVF or pRBC as needed to maintain SBP > 90, careful to monitor
   volume status in setting of severe CHF
   - Hold ASA for now given low Hct
   - Bumped appropriately after 2 units pRBC night of [**4-6**]; re-transfuse
   for Hct < 25 (plan for 1 u pRBCs this morning)
   - Found to have hematuria; will follow (no pain suggesting stone;
   possibly [**1-31**] Foley insertion)
   - Guaiac stools
   - Monitor physical exam for signs of hematoma formation at site of
   fracture, and re-scan if develops signs of dramatic bleed to rule out
   retroperitoneal bleed
   - Goal UOP > 50 cc/hr
   .
   # LEFT HIP FRACTURE:  s/p ORIF with TFN
   - F/U orthopedics recs
   - WBAT
   - Monitor for signs of complications (soft tissue hematoma,
   retroperitoneal bleed)
   - Morphine for pain, monitoring blood pressure closely
   - Continue BB
   - enoxaparin SQ 30mg Q24 monitor closely given history of HIT positive
   antibody but negative serotonin release assay
   .
   # LEFT ARM/SHOULDER PAIN:  Patient may have injured LUE during fall
   he landed on his left side, but is unable to recall whether he had pain
   in his arm at that time. Limited internal/external rotation of L
   shoulder on exam.
   - Plain films of shoulder
   .
   # CHF - endstage. Difficult to titrate meds in setting of CKD. Weight
   baseline about 160, on [**4-6**] is 167 lb, had been stable throughout last
   week in rehab.
   - Daily weights
   - Hold torsemide 40 [**Hospital1 7**] given elevated creatinine
   - Hold spironolactone for now in setting of hyperkalemia
   - Continue BB
   - discuss restarting ASA
   - Continue statin
   - Goal UOP > 50 cc/hr
   .
   # HYPERKALEMIA: Possibly secondary to hemolysis post-transfusions.
   - monitor lytes [**Hospital1 7**]
   - hold spironolactone
   - Hold home torsemide dose this morning
   - Goal K < 5.5 prior to OR (consider kayexelate if needed)
   .
   # RETROPERITONEAL MASS: Adrenal mass seen on CT this admission (8x6.2
   cm). Non-urgent adrenal MRI recommended by radiology for further
   characterization. Not evident on prior MRI [**2-7**], but "Large but poorly
   assessed hypoechoic area (4 cm) in the region of the left upper pole,
   for which differential considerations include an adrenal or renal mass,
   or a renal cyst" seen on abdominal ultrasound [**1-8**]. Cortisol wnl.
   - MRI abdomen, non-urgent
   .
   # CKD - stage IV. Creatinine baseline 2.0, on admission elevated to
   2.7, now trending up to 3.2. Likely prerenal in setting of hypotension,
   though FEUN 51% and FeNa 5%. Creatinine now up to 3 post-op; UOP
   - Renally dose meds and avoid nephrotoxins
   - Gentle hydration with blood products/fluids
   - Hold torsemide
   - Monitor for signs of uremia, hyperkalemia, acidosis, volume overload
   -
   .
   # POSSIBLE PNEUMONIA. Initial CXR concerning for retrocardiac opacity.
   Pt received levofloxacin in ED. No WBC, no respiratory symptoms.
   - Repeat CXR in AM after hydrated
   - Hold levofloxacin in setting of low clinical suspicion for PNA and
   multiple episodes of C. Diff.
   - Sputum cx not yet logged, urine legionella negative
   - Continue ipratropium nebs
   .
   # THROMBOCYTOPENIA. Had pancytopenia at prior admission, normalized
   during treatment. HIT ruled out, but heparin products avoided because
   initial GP4 antibody positive (Serotonin assay negative). DDx
   dilutional (most likely) vs consumptive vs chronic disease
   - Monitor for now, transfuse for Plt < 30
   .
   # RECURRENT C. DIFF INFECTION. Currently on PO Vanco taper. No diarrhea
   currently.
   - Continue PO Vancomycin taper as above.
   - Avoid unnecessary antibiotics if possible
   - ID approval required in AM.
   .
   # Atrial Fibrillation. Holding ASA in setting of low Hct; not on
   Coumadin due to GIB.
   - Hold ASA for now.
   - Metoprolol for rate control, hold for SBP < 100.
   .
   # CHRONIC ANEMIA. Baseline Hct 30; likely secondary to CKD/chronic
   disease.
   - Consider Epo
   .
   # CHRONIC VENOUS STASIS.
   - Wound care for left leg ulcer.
   - Teds
   .
   # INABILITY TO TAKE PO MEDS. Pt somewhat sleep late last night, and PO
   meds held. Will monitor and if no improvement during day will consult
   speech/swallow.
   - Crush meds PRN
   .
   # FEN: Replete electrolytes, NPO now for procedure, senna/colace/tums
   # Prophylaxis: No SCH given possible concern for HIT in past. PPI.
   Pneumoboots.
   # Access: Two 18 guage peripherals
   # Communication: Patient, wife [**Name (NI) **] [**Name (NI) 14060**] [**Telephone/Fax (1) 14482**]
   # Code:  Full code for acute situations and OR but does not wish to be
   chronically vented (discussed with patient and wife)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-4-6**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-04-08 12:03:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR - ORIF
 INVASIVE VENTILATION - STOP [**2141-4-7**] 05:18 PM
 Neo weaned off
Low urine output
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Heparin Agents
   Thrombocytopeni
   Warfarin
   GI bleed;
   Zolpidem
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2141-4-8**] 03:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2141-4-7**] 10:00 PM
   Furosemide (Lasix) - [**2141-4-7**] 10:50 PM
   Morphine Sulfate - [**2141-4-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-8**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.1
   HR: 88 (68 - 116) bpm
   BP: 104/49(61) {96/27(44) - 132/121(124)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,990 mL
                                                                    226 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    166 mL
   Blood products:
                                                                  1,050 mL
   Total out:
                                                                  1,100 mL
                                                                    110 mL
   Urine:
                                                                  1,000 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 515 (515 - 515) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.35/44/73.[**Numeric Identifier 218**]/25/-1
   Ve: 6.3 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: LE neurovascularly intact
   Musculoskeletal: sig tenderness over Lt shoulder with sig discomfort on
   passive abduction shoulder joint
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, sig essential tremor
   Labs / Radiology
   8.4 g/dL
   127 K/uL
   71 mg/dL
   3.2 mg/dL
   25 mEq/L
   5.2 mEq/L
   64 mg/dL
   107 mEq/L
   144 mEq/L
   24.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2141-4-6**]  08:20 PM
                             [**2141-4-7**]  04:57 AM
                             [**2141-4-7**]  12:45 PM
                             [**2141-4-7**]  04:12 PM
                             [**2141-4-7**]  05:30 PM
                             [**2141-4-7**]  11:17 PM
                             [**2141-4-8**]  02:48 AM
   WBC
   8.2
   5.9
   9.5
   7.7
   Hct
   22.8
   29.7
   26.1
   32
   28.0
   25.5
   24.2
   Plt
   128
   110
   131
   127
   Cr
   2.4
   2.9
   3.2
   TCO2
   25
   Glucose
   106
   60
   78
   71
   Other labs: PT / PTT / INR:15.5/40.6/1.4, Lactic Acid:1.7 mmol/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   -s/p ORIF
   -DVT prophylaxis per Ortho recs
   -pain control adequate
Evalute Lt shoulder for fx/dislocation
Adrenal mass incidentally noted
   -will need further evaluation once acute issues resolved
 HYPOTENSION
   -able to wean off pressors
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -check urine lytes, sediment
   -oliguria - fluid boluses
 hyperkalemia
   -etiology not clear
   -[**Hospital1 **] lytes
   -EKG without changes
Afib
 Anemia secondary to blood loss
   Please see resident note for remainder of plan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-4-6**] 08:30 PM
   Arterial Line - [**2141-4-8**] 07:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-04-09 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Poor UOP (<10cc/hr), bolused 1250cc, 1 u PRBC HCT from 23 to 25
   - humerous film - no fx or dislocation on wetread
   - Per Heme onc - lovenox ok given negative Serotonin release assay
   - creatinine trending up
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Heparin Agents
   Thrombocytopeni
   Warfarin
   GI bleed;
   Zolpidem
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2141-4-8**] 03:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-4-9**] 03:38 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No Changes
   Flowsheet Data as of  [**2141-4-9**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 82 (80 - 104) bpm
   BP: 107/70(79) {94/15(37) - 143/72(100)} mmHg
   RR: 21 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  2,042 mL
                                                                    150 mL
   PO:
                                                                    165 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,527 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    307 mL
                                                                    110 mL
   Urine:
                                                                    307 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,735 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   General: Alert, oriented, NAD
   HEENT: Sclera anicteric, MMM
   Neck: supple, JVP 11 cm
   Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, rales,
   ronchi
   CV: Irregularly irregular rhythm, normal rate, distant heart sounds, no
   murmurs, rubs, gallops
   ABD:  soft, non-tender, non-distended, bowel sounds present, no rebound
   tenderness or guarding
   GU: foley
   Ext: left hip dressing c/d/I.  Normal sensation and distal pulses.
   Labs / Radiology
   121 K/uL
   8.7 g/dL
   65 mg/dL
   3.9 mg/dL
   24 mEq/L
   5.3 mEq/L
   69 mg/dL
   106 mEq/L
   144 mEq/L
   25.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2141-4-6**]  08:20 PM
                             [**2141-4-7**]  04:57 AM
                             [**2141-4-7**]  12:45 PM
                             [**2141-4-7**]  04:12 PM
                             [**2141-4-7**]  05:30 PM
                             [**2141-4-7**]  11:17 PM
                             [**2141-4-8**]  02:48 AM
                             [**2141-4-8**]  02:09 PM
                             [**2141-4-8**]  08:46 PM
                             [**2141-4-9**]  02:57 AM
   WBC
   8.2
   5.9
   9.5
   7.7
   8.0
   Hct
   22.8
   29.7
   26.1
   32
   28.0
   25.5
   24.2
   23.2
   25.0
   25.4
   Plt
   128
   110
   131
   127
   121
   Cr
   2.4
   2.9
   3.2
   3.6
   3.9
   TCO2
   25
   Glucose
   106
   60
   78
   71
   67
   65
   Other labs: PT / PTT / INR:16.0/40.0/1.4, Lactic Acid:1.7 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 14060**] is an 87 yo male with a history of diastolic CHF (EF 65%
   1/10), AFib not on coumadin, mild AS, stage IV CKD, and HTN, who
   presents from acute rehab after falling at his nursing home and was
   found to have a left intertrochanteric fracture admitted to the MICU
   for hypotension now  day 1 s/p ORIF.
   .
   # HYPOTENSION/ACUTE BLEED/HEMATURIA. Baseline bp per [**3-31**] discharge
   summary is sbp 90s-100. Patient found to have sbp in 80s in ED, now
   improved to 100s with IVF. Ddx = septic shock (given hypothermia, but
   this is pt
s baseline per wife and chart and he has no WBC),
   hypovolemia in setting of dehydration or acute bleed (eg
   retroperitoneal bleed or soft tissue hematoma in setting of hip fx
   though initial CT negative, or GIB though guaiac negative in ED, or GU
   bleed; Hct 29 in clinic to 22.9 here, though after 2+ L IVF and likely
   dilutional in part), vasovagal in setting of severe pain, cardiogenic
   in setting of severe CHF, adrenal insufficiency (cortisol normal). Most
   likely due to combination of dehydration +/- acute bleed in setting of
   poor cardiac function.
   - Infectious work-up: blood cx, urine cx, urinalysis, sputum cx; repeat
   CXR
   - Gentle IVF or pRBC as needed to maintain SBP > 90, careful to monitor
   volume status in setting of severe CHF
   - Hold ASA for now given low Hct
   - Bumped appropriately after 2 units pRBC night of [**4-6**]; 1 unit
   overnight.  re-transfuse for Hct < 25
   - Found to have hematuria; will follow (no pain suggesting stone;
   possibly [**1-31**] Foley insertion)
   - Guaiac stools
   - Monitor physical exam for signs of hematoma formation at site of
   fracture, and re-scan if develops signs of dramatic bleed to rule out
   retroperitoneal bleed
   - Goal UOP > 30 cc/hr, though currently 10-20ml/hr
   .
   # LEFT HIP FRACTURE:  s/p ORIF with TFN
   - F/U orthopedics recs
   - WBAT
   - Monitor for signs of complications (soft tissue hematoma,
   retroperitoneal bleed)
   - Morphine for pain, monitoring blood pressure closely
   - Continue BB
   - enoxaparin SQ 30mg Q24 monitor closely given history of HIT positive
   antibody but negative serotonin release assay
   .
   # CKD - stage IV. Creatinine baseline 2.0, on admission elevated to
   2.7, now trending up to 3.9. Likely prerenal in setting of hypotension,
   though FEUN 51% and FeNa 5%. Creatinine now up to 3.9 post-op; UOP
   dwindling
   - Renally dose meds and avoid nephrotoxins
   - Gentle hydration with blood products/fluids
   - Hold torsemide
   -renal consult
   - Monitor for signs of uremia, hyperkalemia, acidosis, volume overload
   .
   # LEFT ARM/SHOULDER PAIN:  Patient may have injured LUE during fall
   he landed on his left side, but is unable to recall whether he had pain
   in his arm at that time. Limited internal/external rotation of L
   shoulder on exam.
   - Plain films of shoulder with no fracture or dislocation
   .
   # CHF - endstage. Difficult to titrate meds in setting of CKD. Weight
   baseline about 160, on [**4-6**] is 167 lb, had been stable throughout last
   week in rehab.
   - Daily weights
   - Hold torsemide 40 [**Hospital1 7**] given elevated creatinine
   - Hold spironolactone for now in setting of hyperkalemia
   - Continue BB
   - discuss restarting ASA
   - Continue statin
   - Goal UOP > 30 cc/hr
   .
   # HYPERKALEMIA: Possibly secondary to hemolysis post-transfusions.
   - monitor lytes [**Hospital1 7**]
   - hold spironolactone
   - consider restart torsemide
   - give dose of kayexcelate
   .
   # RETROPERITONEAL MASS: Adrenal mass seen on CT this admission (8x6.2
   cm). Non-urgent adrenal MRI recommended by radiology for further
   characterization. Not evident on prior MRI [**2-7**], but "Large but poorly
   assessed hypoechoic area (4 cm) in the region of the left upper pole,
   for which differential considerations include an adrenal or renal mass,
   or a renal cyst" seen on abdominal ultrasound [**1-8**]. Cortisol wnl.
   - MRI abdomen, non-urgent
   .
   # CKD - stage IV. Creatinine baseline 2.0, on admission elevated to
   2.7, now trending up to 3.9. Likely prerenal in setting of hypotension,
   though FEUN 51% and FeNa 5%. Creatinine now up to 3.9 post-op; UOP
   dwindling
   - Renally dose meds and avoid nephrotoxins
   - Gentle hydration with blood products/fluids
   - Hold torsemide
   - Monitor for signs of uremia, hyperkalemia, acidosis, volume overload
   .
   # POSSIBLE PNEUMONIA. Initial CXR concerning for retrocardiac opacity.
   Pt received levofloxacin in ED. No WBC, no respiratory symptoms.
   - Repeat CXR showed retrocardiac opacity with ? atelectasis vs
   consolidation
   - Hold levofloxacin in setting of low clinical suspicion for PNA and
   multiple episodes of C. Diff.
   - Sputum cx not yet logged, urine legionella negative
   - Continue ipratropium nebs
   .
   # THROMBOCYTOPENIA. Had pancytopenia at prior admission, normalized
   during treatment. HIT ruled out, but heparin products avoided because
   initial GP4 antibody positive (Serotonin assay negative). DDx
   dilutional (most likely) vs consumptive vs chronic disease
   - Monitor for now, transfuse for Plt < 30
   .
   # RECURRENT C. DIFF INFECTION. Currently on PO Vanco taper. No diarrhea
   currently.
   - Continue PO Vancomycin taper as above.
   - Avoid unnecessary antibiotics if possible
   .
   # Atrial Fibrillation. Holding ASA in setting of low Hct; not on
   Coumadin due to GIB.
   - Hold ASA for now.
   - Metoprolol for rate control, hold for SBP < 100.
   .
   # CHRONIC ANEMIA. Baseline Hct 30; likely secondary to CKD/chronic
   disease.
   - Consider Epo
   .
   # CHRONIC VENOUS STASIS.
   - Wound care for left leg ulcer.
   - Teds
   .
   # INABILITY TO TAKE PO MEDS. Pt somewhat sleep late last night, and PO
   meds held. Will monitor and if no improvement during day will consult
   speech/swallow.
   - Crush meds PRN
   .
   # FEN: Replete electrolytes, NPO now for procedure, senna/colace/tums
   # Prophylaxis: Lovenox. PPI. Pneumoboots.
   # Access: Two 18 gauge peripherals
   # Communication: Patient, wife [**Name (NI) **] [**Name (NI) 14060**] [**Telephone/Fax (1) 14482**]
   # Code:  Full code for acute situations and OR but does not wish to be
   chronically vented (discussed with patient and wife)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-4-6**] 08:30 PM
   Arterial Line - [**2141-4-8**] 07:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-04-09 11:26:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypotension, renal failure, s/p ORIF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -poor urine output overnight
   -ivf boluses
   -unit pRBC
   -shoulder film negative for fx/dislocation
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Quinidine
   fever;
   Propranolol
   Aggitation;
   Heparin Agents
   Thrombocytopeni
   Warfarin
   GI bleed;
   Zolpidem
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2141-4-8**] 03:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-4-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-9**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**42**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 76 (76 - 104) bpm
   BP: 143/60(72) {94/15(37) - 143/82(100)} mmHg
   RR: 19 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,055 mL
                                                                    561 mL
   PO:
                                                                    165 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,540 mL
                                                                    361 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    307 mL
                                                                    210 mL
   Urine:
                                                                    307 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,748 mL
                                                                    351 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   121 K/uL
   65 mg/dL
   3.9 mg/dL
   24 mEq/L
   5.3 mEq/L
   69 mg/dL
   106 mEq/L
   144 mEq/L
   25.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2141-4-6**]  08:20 PM
                             [**2141-4-7**]  04:57 AM
                             [**2141-4-7**]  12:45 PM
                             [**2141-4-7**]  04:12 PM
                             [**2141-4-7**]  05:30 PM
                             [**2141-4-7**]  11:17 PM
                             [**2141-4-8**]  02:48 AM
                             [**2141-4-8**]  02:09 PM
                             [**2141-4-8**]  08:46 PM
                             [**2141-4-9**]  02:57 AM
   WBC
   8.2
   5.9
   9.5
   7.7
   8.0
   Hct
   22.8
   29.7
   26.1
   32
   28.0
   25.5
   24.2
   23.2
   25.0
   25.4
   Plt
   128
   110
   131
   127
   121
   Cr
   2.4
   2.9
   3.2
   3.6
   3.9
   TCO2
   25
   Glucose
   106
   60
   78
   71
   67
   65
   Other labs: PT / PTT / INR:16.0/40.0/1.4, Lactic Acid:1.7 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   -s/p ORIF
   -DVT prophylaxis per Ortho recs
   -pain well controlled
Lt shoulder discomfort
   -much better today
   -films neg for fx/dislocation
Adrenal mass incidentally noted
   -will need further evaluation once acute issues resolved
 HYPOTENSION
   -remains off pressors
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -creat trending up
   -check urine lytes, sediment
   -oliguria - fluid boluses
   -renal consult
 hyperkalemia
   -improved
Afib
 Anemia secondary to blood loss
   Please see resident note for remainder of plan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-4-6**] 08:30 PM
   Arterial Line - [**2141-4-8**] 07:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: